US04595690
A solution of 6.2 g of 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-benzyloxyethoxy)-phenyl]ethoxycarbonyl)-1,4-dihydropyridine in 100 ml of ethanol with 0.5 g of 10% palladium on carbon is hydrogenated at 50 psi for 18 h. The mixture is filtered and the filtrate evaporated to afford 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-hydroxyethoxy)phenyl]ethoxycarbonyl)-1,4-dihydropyridine.

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-benzyloxyethoxy)-phenyl]ethoxycarbonyl)-1,4-dihydropyridine | 6.2 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)OCCOCC1=CC=CC=C1)C | C33H34N2O8
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-[4-(2-hydroxyethoxy)phenyl]ethoxycarbonyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)OCCO)C | C26H28N2O8
